Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p Motor vehicle crash
 
Major Surgical or Invasive Procedure:
1. Open reduction internal fixation distal tibia shaft fracture.
2. Open reduction internal fixation distal fibular fracture.

 
History of Present Illness:
___ year old male who is s/p motor vehicle crash.
Transferred from outside hospital after being the
restrained, intoxicated driver who was driving against
traffic on the highway, he struck at least ___ cars, pulled
off the highway and then struck another car. He was
pan-scanned at outside hospital with imaging showing
left-sided rib fractures,? Pulmonary contusion, L2
compression fracture as well as significant tib-fib fracture
which reportedly required frequent repositioning or it would
become dusky and lose pulses.

 
Past Medical History:
Denies
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: PERRL        EOMs intact without nystagmus
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Right ___ casted, Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      D    B     T    WE   WF    IP    Q  H     AT    ___    G

Sensation: Intact to light touch, proprioception, pinprick and
vibration bilaterally.

Proprioception intact
Rectal exam normal sphincter control

 
Pertinent Results:
___ 01:19AM   GLUCOSE-118* LACTATE-4.2* NA+-143 K+-4.0 
CL--104 TCO2-19*
___ 01:10AM   UREA N-11 CREAT-0.8
___ 01:10AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:10AM   WBC-20.2* RBC-4.84 HGB-16.2 HCT-42.8 MCV-88 
MCH-33.4* MCHC-37.8* RDW-12.2
___ 01:10AM   ___ PTT-25.7 ___
___ 01:10AM   PLT COUNT-349

Lumbar spine films:
IMPRESSION: L2 vertebral body compression fracture with mild 
posterior 
displacement and possible small adjacent hematoma, which is not 
well evaluated with CT. MR is more sensitive for evaluation of 
intrathecal structures and adjacent soft tissues and can be 
considered if clinically indicated and not contra-indicated. 

CT right lower extremity:
IMPRESSION: 
1. Multi-comminuted and displaced distal tibial and fibular 
diaphyseal 
fractures, as described above. 
2. Non-displaced vertical intraarticular fracture of the medial 
malleolus 
with underlying sub-millimeter intraarticular loose body.  
3. Small anterior avulsion fracture of the lateral malleolus.  
4. Intact distal tibiofibular syndesmosis. Congruent ankle 
mortise. 
5. No CT evidence of ligamentous disruption. MRI is better for 
evaluation of ligaments and tendons 

Chest xray:
FINDINGS: AP single view of the chest has been obtained with 
patient in 
semi-upright position. Observed that an additional image over 
the upper 
portion of the abdomen was added to cover the entire area. The 
heart size is not enlarged. Thoracic aorta unremarkable. The 
pulmonary vasculature is not congested. No pneumothorax is 
present. The first chest image suggests a density in the right 
lower lung field and a linear density in the minor 
fissure, but an additional exposure of the lower chest and upper 
abdomen rules out any significant pulmonary abnormality. There 
are multiple rib fractures on the right base involving ___ 6, 
7 and 8. This injury is poorly identified on the single chest 
view. No significant interval change. 
  

 
Brief Hospital Course:
He was admitted to the Acute Care Surgery team. Neurosurgery was 
consulted for the lumbar spine fracture. This was managed non 
operatively. He was measured and fitted for a lumbar brace that 
needs to be worn when head of bed greater than 30 degrees and 
when out of bed. He will follow up as an outpatient with Dr. 
___ repeat imaging of his spine.

He was also seen by orthopedics for the right tibia/fibula 
fracture and was taken to the operating room for ORIF of these 
fractures. There were no intraoperative complications. He is 
touch down weight bearing and will follow up in ___ clinic in 
2 weeks.

Initial discussions took place regarding possible epidural 
catheter for pain control due to his rib fractures. It was later 
assessed that use of IV narcotics at first were effective; he 
later was changed to oral narcotics with adequate relief of his 
pain.

He was evaluated by Physical therapy and was recommended for 
rehab after his acute hospital stay.
 
Medications on Admission:
Denies
 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. oxycodone 5 mg Tablet Sig: ___ Tablets PO every four (4) 
hours as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
4. senna 8.6 mg Tablet Sig: ___ Tablets PO once a day as needed 
for constipation.  
5. heparin (porcine) 5,000 unit/mL Solution Sig: One (1) ML 
Injection TID (3 times a day).  
6. famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
s/p Motor vehicle crash
Injuries:
1.L2 compression fracture  
2.Right rib fractures ___ fracture  
4.Right distal tibia & fibula fractures  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital after a motor vehicle crash 
where you sustained rib fractures, a fracture of the spine bone 
in your lumbar (lower back) and a broken bones in your lower 
right leg called the tibia and fibula. The broken bones in your 
leg required an operation to repair them. It is improtant that 
you not put full weight on your right leg.

*  Your crash caused right sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
*  You should take your pain medication as directed to stay 
ahead of the pain otherwise you won't be able to take deep 
breaths. If the pain medication is too sedating take half the 
dose and notify your physician.
 
*  Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
*  You will be more comfortable if you use a cough pillow to 
hold against your chest and guard your rib cage while coughing 
and deep breathing.
 
*  Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
*  Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
*  Do NOT smoke
 
*  If your doctor allows, non steroidal antiinflammatory drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
*  Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs ( crepitus ).

 
Followup Instructions:
___